US06359134B1
1-(4-Dimethylaminomethylbenzoyl)-4-(2-naphthalenesulfonyl)piperazine hydrochloride
To 1-(4-dimethylaminomethylbenzoyl)-4-(2-naphthalenesulfonyl)piperazine (42 mg) was added 4 N hydrochloric acid in ethyl acetate solution (1 ml), and the precipitated hydrochlorides were filtered to give the title compound (40 mg).

reactant | 1-(4-dimethylaminomethylbenzoyl)-4-(2-naphthalenesulfonyl)piperazine | 42 mg | CN(C)CC1=CC=C(C(=O)N2CCN(CC2)S(=O)(=O)C2=CC3=CC=CC=C3C=C2)C=C1 | C24H27N3O3S
reactant | hydrochloric acid | 4 N | Cl | ClH
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | 1-(4-Dimethylaminomethylbenzoyl)-4-(2-naphthalenesulfonyl)piperazine hydrochloride | 40 mg | Cl.CN(C)CC1=CC=C(C(=O)N2CCN(CC2)S(=O)(=O)C2=CC3=CC=CC=C3C=C2)C=C1 | InChI=1S/C24H27N3O3S.ClH/c1-25(2)18-19-7-9-21(10-8-19)24(28)26-13-15-27(16-14-26)31(29,30)23-12-11-20-5-3-4-6-22(20)17-23;/h3-12,17H,13-16,18H2,1-2H3;1H
